US04767766
Step C: Preparation of Methyl 3-(4-methoxyphenylmethylthio)pyridine-2-carboxylate
A solution of 1.20 g (5 mmol) of methyl 3-(N,N-dimethylaminocarbamoylthio)pyridine-2-carboxylate in 5 mL of methanol and 1.5 mL (6 mmol) of 4.1M sodium methoxide methanol was stirred at room temperature for 10 minutes. Then the solvent was concentrated and the residue was dissolved in 5 mL of N,N-dimethylformamide and 5 mL of tetrahydrofuran. 0.936 g (6 mmol) of p-methoxybenzylmercaptan was added and the solution was stirred at room temperature for 18 hours. The solution was partitioned between ether and water and the aqueous layer was extracted with two portions of ether. The combined extracts were washed with brine, dried and concentrated. Recrystallization from methanol afforded 0.90 g (62%) of pale tan needles, m.p. 99°-100° C.

reactant | methyl 3-(N,N-dimethylaminocarbamoylthio)pyridine-2-carboxylate | 5 mmol, 1.20 g | CNN(C(=O)SC=1C(=NC=CC1)C(=O)OC)NC | C10H14N4O3S
reactant | sodium methoxide methanol | 6 mmol, 4.1M, 1.5 mL | CO.C[O-].[Na+]
reactant | p-methoxybenzylmercaptan | 6 mmol, 0.936 g | COC1=CC=C(CS)C=C1 | C8H10OS
solvent | methanol | 5 mL | CO | CH4O
product | Methyl 3-(4-methoxyphenylmethylthio)pyridine-2-carboxylate | 0.90 g, 62% | COC1=CC=C(C=C1)CSC=1C(=NC=CC1)C(=O)OC | C15H15NO3S
